US07863446B2
Step 1: Synthesis of 1-(5-nitropyridin-2-yl)piperazine
2-Bromo-5-nitropyridine (0.3 g, 1.48 mmol) was treated with piperazine (0.64 g, 7.89 mmol) in tetrahydrofuran (4 ml) and the reaction mixture was stirred for 30 minutes. Subsequently the reaction mixture was poured onto ice-cold water (25 ml) and extracted with ethyl acetate (25 ml). The organic layer was washed with brine and evaporated to furnish the product.

reactant | 2-Bromo-5-nitropyridine | 1.48 mmol, 0.3 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | piperazine | 7.89 mmol, 0.64 g | N1CCNCC1 | C4H10N2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-(5-nitropyridin-2-yl)piperazine | [N+](=O)([O-])C=1C=CC(=NC1)N1CCNCC1 | C9H12N4O2
